Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left sided chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of HTN, HL presenting with 3 weeks of 
moderate/severe epigastric and chest pain. The pain has been 
non-exertional, radiates to his shoulder and back. It has been 
present both day and night but has been noticably worse when 
supine. He also had associated dry cough, SOB, and night sweats 
over the past 2 weeks. He denies any recent weight loss. He 
traveled to ___ last week for a motorcycle race. He has 
increased chest pain while laying down and chest pain improved 
with leaning forward.  He returned this morning and noted some 
tingling in his hand and initially presented to his PCP and was 
referred to the ___ ED. He notes poor PO intake over the past 
24h due to lack of appetite.
In the ED initial vitals were: 98.1 113 125/84 18 96% RA
EKG: sinus tachycardia with non-specific ST-TW changes.
Labs/studies notable for: WBC 17.7, Hgb 12.2, Plt 386, Chem 7 
with anion gap but otherwise normal.
CXR with mildly enlarged heart, CTA with pericardial effusion 
and no evidence of PE. The cardiology fellow was consulted who 
performed a pulsus (8) and bedside echo noting a 1.2-1.5cm 
effusion without echocardiographic evidence of tamponade 
physiology. The patient was given 2L IVF with HR decreasing to 
98.
ROS:
On review of systems, denies any prior history of stroke, TIA, 
deep venous thrombosis, pulmonary embolism, bleeding at the time 
of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative. Cardiac review of systems is notable 
for absence of chest pain, dyspnea on exertion, paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.
 
Past Medical History:
HTN
HL
Obesity
Colonic adenoma
 
Social History:
___
Family History:
Father with CAD and cerebral aneurysm

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
=====================================
98 131/77 21 94% RA
GEN: WDWN man in NAD
HEENT: NCAT, sclera anicteric, dry MM
NECK: JVP mildly elevated, no supraclavicular lymphadenopathy
HEART: RRR, S1, S2, distant heart sounds, +rub. ? Left sided 
lymphadenopathy.
LUNGS: Decreased BS in L base
ABD: Obese, soft, NT/ND, no palpable organomegaly. No inguinal 
lympadenopathy.
EXT: WWP, no c/c/e

PHYSICAL EXAM ON DISCHARGE
=====================================
VS: T=98.0 F BP= 143/90 HR=89 RR= 20 O2 sat= 96% RA 
Wt: 124.5
GEN: WDWN man in NAD. 
HEENT: NCAT, sclera anicteric, dry MM. No LAD
NECK: JVP not elevated. no supraclavicular lymphadenopathy
No axillary lymphadenopathy. 
HEART: No rub. RRR and no MGR. Left sided chest pain is 
reproducible. 
LUNGS: Clear to ausculatation. No increased work of breathing. 
ABD: Obese, soft, NT/ND, no palpable organomegaly. 
EXT: WWP, no c/c/e
 
Pertinent Results:
LABS ON ADMISSION
=========================================
___ 11:00PM   cTropnT-<0.01
___ 11:00PM   WBC-17.7* RBC-3.99* HGB-12.2* HCT-36.0* 
MCV-90 MCH-30.6 MCHC-33.9 RDW-12.6 RDWSD-41.5
___ 11:00PM   PLT COUNT-381
___ 11:00PM   WBC-17.7* RBC-3.99* HGB-12.2* HCT-36.0* 
MCV-90 MCH-30.6 MCHC-33.9 RDW-12.6 RDWSD-41.5
___ 09:49AM   ___ PO2-44* PCO2-47* PH-7.32* TOTAL 
CO2-25 BASE XS--2
___ 09:49AM   LACTATE-1.6
___ 09:30AM   GLUCOSE-95 UREA N-13 CREAT-1.0 SODIUM-138 
POTASSIUM-5.0 CHLORIDE-101 TOTAL CO2-25 ANION GAP-17
___ 09:30AM   CALCIUM-8.5 PHOSPHATE-4.2 MAGNESIUM-1.9
___ 09:30AM   WBC-12.9* RBC-3.55* HGB-10.6* HCT-33.1* 
MCV-93 MCH-29.9 MCHC-32.0 RDW-12.7 RDWSD-43.8
___ 09:30AM   PLT COUNT-345
___ 07:25AM   ___ PTT-34.4 ___
___ 07:25AM   cTropnT-<0.01
___ 07:25AM   HIV Ab-Negative
___ 07:25AM   ___
___ 07:25AM   TSH-2.0
___ 07:24AM BLOOD SED RATE-48  
___:12AM   ALBUMIN-3.4* CALCIUM-8.8 PHOSPHATE-4.8* 
MAGNESIUM-1.9
___ 12:12AM BLOOD ALT-59* AST-41* LD(LDH)-184 AlkPhos-39* 
TotBili-0.5

LABS ON DISCHARGE
=========================================
___ 06:55AM BLOOD WBC-11.0* RBC-3.82* Hgb-11.5* Hct-35.7* 
MCV-94 MCH-30.1 MCHC-32.2 RDW-12.8 RDWSD-43.5 Plt ___
___ 06:55AM BLOOD Neuts-81.8* Lymphs-8.6* Monos-6.9 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-8.97* AbsLymp-0.94* AbsMono-0.76 
AbsEos-0.20 AbsBaso-0.04
___ 06:55AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-103* UreaN-17 Creat-1.0 Na-141 
K-5.0 Cl-105 HCO3-26 AnGap-15
___ 06:55AM BLOOD Calcium-8.7 Phos-4.7* Mg-2.2

___ 07:25AM BLOOD TSH-2.0
___ 07:25AM BLOOD ___
___ 07:25AM BLOOD HIV Ab-Negative
___ 09:05AM BLOOD QUANTIFERON-TB GOLD-PND
___ 9:30 am SEROLOGY/BLOOD      CHEM # ___ ___. 

LYME SEROLOGY (Pending): 

___ CT CHEST
1. Large simple pericardial effusion, measuring up to 20 mm in 
maximum thickness. Straightening of the anterior wall of the 
heart raises concern for tamponade.
2. No evidence of pulmonary embolism.
3. Small simple left pleural effusion, with associated left base 
atelectasis.

___ SURFACE ECHO:  The left atrium is mildly dilated. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity is small. Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is normal (LVEF = 70%). The right 
ventricular free wall is hypertrophied. Right ventricular 
chamber size is normal with mild global free wall hypokinesis. 
The aortic root is mildly dilated at the sinus level. The aortic 
arch is mildly dilated. The mitral valve leaflets are 
structurally normal. Mild (1+) mitral regurgitation is seen. 
There is a moderate sized pericardial effusion. The effusion 
appears circumferential. There are no echocardiographic signs of 
tamponade. No right atrial or right ventricular diastolic 
collapse is seen. There is significant, accentuated respiratory 
variation in mitral/tricuspid valve inflows, consistent with 
impaired ventricular filling. LVEF: 55% C.I.: 1.99

___: SURFACE ECHO: Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. There is no aortic valve 
stenosis. No aortic regurgitation is seen. No mitral 
regurgitation is seen. There is a moderate sized pericardial 
effusion. The effusion is echo dense, consistent with blood, 
inflammation or other cellular elements. There are no 
echocardiographic signs of tamponade. No right ventricular 
diastolic collapse is seen. 

Compared with the prior study (images reviewed) of ___, 
no clear change.
  

 
Brief Hospital Course:
___ with PMH of HTN, HL presenting with 3 weeks of night sweats 
found to have pericardial effusion and pericarditis

# Pericardial effusion: 
Patient was admitted for worsening left sided chest pain in the 
setting of new onset night sweats, increased fatigue, and 
unintentional weight loss and was found to have a moderate sized 
pericardial effusion that was stable on three consecutive 
surface echocardiograms. He did not show any signs of cardiac 
tamponade. It was thought that his pericardial effusion was most 
likely related to underlying pericarditis. He was treated for 
pericarditis and discharged with close outpatient follow-up with 
cardiology and plan for repeat echocardiogram.

# Pericarditis: 
Patient endorsed symptoms consistent with pericarditis, given 
that his chest pain worsened when lying flat and improved when 
leaning forward. Etiology of pericarditis is unknown but thought 
most likely to be related to an infectious or inflammatory 
process.  He had a recent viral illness which could have 
precipitated pericarditis with effusion. 

No clear TB risk factors and CT chest was negative, but 
Quantiferon Gold test was sent and pending at time of discharge. 
 HIV and ___ were negative. TSH was within normal range. SED was 
mildly elevated. Lyme serologies also sent and pending as 
patient endorsed outdoor exposure. 

Patient was treated in the hospital with ibuprofen and 
colchicine. Patient was discharged on ibuprofen 600 mg TID for 5 
days, 400 mg TID for 5 days, 200 mg TID for 5 days. Colchicine 
0.6 mg BID started for 1 month course to then transition to 0.6 
mg daily up to ___ year. Total duration to be determined based 
upon Cardiology follow up.

#Leukocytosis: 
Patient presented with a one year history of leukocytosis 13.6 
with neutrophil predominance. Leukocytosis was thought to be 
most likely related to stress and were down trending throughout 
his hospital course. On discharge his WBC count was 11.5. He did 
not have fevers or chills throughout his hospital stay. 

# HTN: 
Blood pressures remained stable with SBP ranging from 
(120-140's) throughout his hospital stay. He had no hypotension 
to suggest signs of tamponade. His anlapril was held throughout 
hospital course but restarted on discharge. Consider outpatient 
work-up for obstructive sleep apnea as possible cause of 
hypertension. 

# Hyperlipidemia: 
Patient was continued on home dose of Simvastatin. 

TRANSITIONAL ISSUES
====================================
-Pericardial Effusion: Echo ___ and ___ showed: Overall left 
ventricular systolic function is normal (LVEF>55%). There is a 
moderate sized pericardial effusion. The effusion is echo dense, 
consistent with blood, inflammation or other cellular elements. 
There are no echocardiographic signs of tamponade. No right 
ventricular diastolic collapse is seen. 
- Repeat Echo on follow up likely on ___
-Pericarditis: Patient was discharged on a Ibuprofen taper. 
Instructed to take Ibuprofen 600 TID, Ibuprofen 400 mg BID for 5 
days, and Ibuprofen 200 mg BID for 5 days. Colchicine 0.6 mg BID 
started for 4 weeks. Continue to take Colchicine 0.6 mg PO daily 
for up to one year to be determined at follow up. 
-Pending labs include: Quantiferon Gold and Lyme serology 
-Consider outpatient work-up for OSA. 
-If continues to have night sweats and weight loss, consider a 
rheumatology follow-up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enalapril Maleate 10 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Simvastatin 20 mg PO QPM 
2. Enalapril Maleate 10 mg PO DAILY 
3. Colchicine 0.6 mg PO BID Duration: 1 Month 
Please decrease to one tab daily on ___.  
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*0
4. Ibuprofen 200 mg PO TID 
Take 3 tabs daily for 5 days, then 2 tabs twice daily for 5 
days, then 1 tab twice daily for 5 days. 
RX *ibuprofen [Ibuprofen IB] 200 mg ___ tablet(s) by mouth see 
below Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Moderate Pericardial effusion
Pericarditis

Secondary: 
Hypertension 
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted because you were found to have fluid in your 
pericardium, which is the lining around your heart. This is from 
a condition called "pericarditis" or inflammation of the lining 
of your heart. 

You had consecutive ultrasounds which showed a moderate sized 
effusions that is stable. Since you remained stable we did not 
do any interventions to remove the fluid. You were treated with 
ibuprofen and colchicine. Your chest pain improved with the 
medications. We tested you for multiple causes of pericariditis 
and many of those results are still pending. 

The cause of your new onset night sweats may be related to cause 
of pericarditis. Please follow-up with your primary care 
physician and Dr. ___ new ___ below. 

It was a pleasure taking care of you. 

Sincerely,
Your ___ Care Team. 
 
Followup Instructions:
___